US08748624B2
STEP A: 2-bromo-N-(2′,4′-dichloro-[1,1′-biphenyl]-4-yl)-4,5-difluorobenzamide
Solid HATU (501 mg, 1.3 mmol) was added to a DMF solution (1 mL) of 2-bromo-4,5-difluorobenzoic acid (250 mg, 1.1 mmol), i-Pr2NEt (0.5 mL, 3.2 mmol), and 2′,4′-dichloro-[1,1′-biphenyl]-4-amine (251 mg, 1.1 mmol) and the resulting mixture was stirred at room temperature. After 2 h the resulting mixture was directly purified via column chromatography to yield the title compound.

reactant | HATU | 1.3 mmol, 501 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-bromo-4,5-difluorobenzoic acid | 1.1 mmol, 250 mg | BrC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3BrF2O2
reactant | i-Pr2NEt | 3.2 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2′,4′-dichloro-[1,1′-biphenyl]-4-amine | 1.1 mmol, 251 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)N | C12H9Cl2N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-bromo-N-(2′,4′-dichloro-[1,1′-biphenyl]-4-yl)-4,5-difluorobenzamide | BrC1=C(C(=O)NC2=CC=C(C=C2)C2=C(C=C(C=C2)Cl)Cl)C=C(C(=C1)F)F | C19H10BrCl2F2NO
